US08629147B2
4-(2-Methoxy-pyridin-3-yl)-2-[7-(4-methyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-phenol
To mixture of 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde (57 mg, 0.25 mmol) and 3-(4-methyl-piperazin-1-yl)-benzene-1,2-diamine (51 mg, 0.25 mol) was added DMA (1 mL) and the resulting solution was stirred at the room temperature for 15 min, heated at 110° C. for 15 h open to the air, concentrated under reduced pressure. The residual crude was purified by chromatography (500:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (10.8 mg, 10.5%). 1H NMR (MeOH-d4) δ 2.41 (s, 3H), 2.78 (m, 4H), 3.49 (m, 4H), 3.97 (s, 3H), 6.72 (m, 1H) 7.05-7.20 (4H), 7.56 (d, J=9 Hz, 1H), 7.78 (d, J=9 Hz, 1H), 8.10-8.13 (2H). ESI-MS m/z 416.5 (MH+).

reactant | 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde | 0.25 mmol, 57 mg | OC1=C(C=O)C=C(C=C1)C=1C(=NC=CC1)OC | C13H11NO3
reactant | 3-(4-methyl-piperazin-1-yl)-benzene-1,2-diamine | 0.25 mol, 51 mg | CN1CCN(CC1)C1=C(C(=CC=C1)N)N | C11H18N4
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | 4-(2-Methoxy-pyridin-3-yl)-2-[7-(4-methyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-phenol | 10.8 mg, 10.5% | COC1=NC=CC=C1C1=CC(=C(C=C1)O)C1=NC2=C(N1)C(=CC=C2)N2CCN(CC2)C | C24H25N5O2
